US07638631B2
1,1-Dimethylethyl 5-bromo-2-pyridinecarboxylate (D12)
A suspension of 5-bromo-2-pyridinecarboxylic acid (may be prepared as described in Description 11) (68.0 g) in tert-butanol (680 ml) and pyridine (190 ml) was stirred vigorously at rt for 0.5 h under argon. 4-Toluenesulfonyl chloride (153.7 g) was then added portionwise over 10 min to give a thick white mixture which gradually dissolved over 2 h to give a dark brown solution. After 4.5 h at rt the reaction mixture was poured slowly with stirring onto a saturated aqueous solution of sodium hydrogen carbonate (136 g) in water (1 l). Stirring was continued for 18 h at rt. The product was then extracted into diethyl ether (2×1 l) and the combined extracts were dried (MgSO4), filtered and concentrated to give a solid. This was treated with toluene (1 l) and the mixture was evaporated to dryness. This was repeated twice more with toluene (2×1 l) to give a pink solid which was dried in vacuo overnight to give 80.0 g of product. Recrystallisation from acetone/water gave the pure title compound (D12) (66.8 g). MS electrospray (+ve ion) 281 (MNa+). 1H NMR δ CDCl3: 8.79 (1H, s), 7.90 (2H, s), 1.64 (9H, s).

reactant | 5-bromo-2-pyridinecarboxylic acid | 68.0 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 4-Toluenesulfonyl chloride | 153.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydrogen carbonate | 136 g | C(O)([O-])=O.[Na+]
reactant | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
solvent | tert-butanol | 680 ml | C(C)(C)(C)O | C4H10O
solvent | pyridine | 190 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 1 l | O | H2O
product | 1,1-Dimethylethyl 5-bromo-2-pyridinecarboxylate | 80.0 g | BrC=1C=CC(=NC1)C(=O)OC(C)(C)C | C10H12BrNO2
